US05841000
237 ml of water, 173.9 g of indene (92 wt %; 1.38 mol), 2.8 g of Triton X-100 and 262.0 g of hydrogen bromide (47 wt %; 1.52 mol, 1.1 mol/mol indene) were put into a 1000-ml 3-mouthed flask, and emulsified by stirring together with a magnetic stirrer. The emulsion was stirred at 60° C. as 147.2 g of hydrogen peroxide (35 wt %; 1.52 mol, 1.1 mol/mol indene) was added dropwise over 4 hours and 20 minutes. After stirring for 2 hours at the same temperature, stirring was continued at room temperature overnight. 200 ml of dichloromethane was added to the reaction mixture, and after stirring at room temperature for 1 hour it was filtered at decreased pressure. The wet crystals were dried, to obtain 246.1 g of pale yellow crystals of trans-2-bromoindan-1-ol (yield 83.9%; GC purity 97.0%).

reactant | indene | 1.38 mol, 173.9 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | hydrogen bromide | 1.52 mol, 262.0 g | Br | BrH
reactant | hydrogen peroxide | 1.52 mol, 147.2 g | OO | H2O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 237 ml | O | H2O
product | trans-2-bromoindan-1-ol | yield 83.9% | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
